US08466282B2
Tert-butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-(propylamino)piperidine-1-carboxylate
tert-Butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-{[(2-nitrophenyl)sulfonyl](propyl)amino}piperidine-1-carboxylate (4.02 g) and lithium hydroxide monohydrate (1.56 g) were dissolved in DMF (20 ml), thioglycol acid (1.3 ml) was added at room temperature, and the mixture was stirred for 2 days at room temperature. The reaction mixture was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-10:0) was concentrated under reduced pressure. The residue was diluted with 10% aqueous citric acid solution, and washed with ethyl acetate. The aqueous layer was neutralized with aqueous sodium bicarbonate and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (1.89 g).

reactant | tert-Butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-{[(2-nitrophenyl)sulfonyl](propyl)amino}piperidine-1-carboxylate | 4.02 g | N1(CCOCC1)C(=O)[C@H]1CN(C[C@H](C1)N(CCC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C24H36N4O8S
reactant | lithium hydroxide monohydrate | 1.56 g | O.[OH-].[Li+]
reactant | thioglycol | 1.3 ml | C(CS)O | C2H6OS
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Tert-butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-(propylamino)piperidine-1-carboxylate | 1.89 g | N1(CCOCC1)C(=O)[C@H]1CN(C[C@H](C1)NCCC)C(=O)OC(C)(C)C | C18H33N3O4
